US06884868B1
To a mixture of 4-[4-[4-[4-(4-methoxybutoxy)phenyl]-3,6-dihydro-2H-pyridin-1-yl]phenyl]piperazine-1-carboxylic acid benzyl ester (2.20 g) and ammonium formate (1.25 g) in 90% methanol (44 ml) and dioxane was added 10% palladium on carbon at room temperature. The reaction mixture was heated at 100° C. for 2 hours. After cooling, the reaction mixture was filtered and evaporated. Sodium hydrogen carbonate solution was added to the residue. And the resulting precipitate was collected by filtration, washed with water and dried under hi-vacuum to give 1-[4-[4-[4-(4-methoxybutoxy)phenyl]piperidin-1-yl]phenyl]piperazine (1.36 g).

reactant | 4-[4-[4-[4-(4-methoxybutoxy)phenyl]-3,6-dihydro-2H-pyridin-1-yl]phenyl]piperazine-1-carboxylic acid benzyl ester | 2.20 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCC(=CC1)C1=CC=C(C=C1)OCCCCOC | C34H41N3O4
reactant | ammonium formate | 1.25 g | C(=O)[O-].[NH4+]
solvent | methanol | 44 ml | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | 1-[4-[4-[4-(4-methoxybutoxy)phenyl]piperidin-1-yl]phenyl]piperazine | 1.36 g | COCCCCOC1=CC=C(C=C1)C1CCN(CC1)C1=CC=C(C=C1)N1CCNCC1 | C26H37N3O2
